US08912210B2
Step F: (3S,5S)-3-Amino-5-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one hydrochloride
A solution of tert-butyl[(3S,5S)-5-(2,3-difluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate (1.50 g, 3.67 mmol) in EtOAc (30 mL) at 0° C. was saturated with HCl (g) and aged for 30 min. The resulting mixture was concentrated in vacuo to give the title compound. MS: m/z=309.0 (M+1); 1H NMR (500 MHz, CD3OD) δ 7.29-7.17 (m, 3H), 4.36-4.25 (m, 2H), 4.12 (dq, 1H, J=15.1, 9.3 Hz), 3.84 (m, 1H), 3.75 (ddd, 1H, J=12.0, 5.4, 1.7 Hz), 3.64 (t, 1H, J=11.6 Hz), 2.46 (m, 1H), 2.37 (q, 1H, J=12.2 Hz).

reactant | tert-butyl[(3S,5S)-5-(2,3-difluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate | 3.67 mmol, 1.50 g | C(C)(C)(C)OC(N[C@@H]1C(N(C[C@@H](C1)C1=C(C(=CC=C1)F)F)CC(F)(F)F)=O)=O | C18H21F5N2O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (3S,5S)-3-Amino-5-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)piperidin-2-one hydrochloride | Cl.N[C@@H]1C(N(C[C@@H](C1)C1=C(C(=CC=C1)F)F)CC(F)(F)F)=O | InChI=1S/C13H13F5N2O.ClH/c14-9-3-1-2-8(11(9)15)7-4-10(19)12(21)20(5-7)6-13(16,17)18;/h1-3,7,10H,4-6,19H2;1H/t7-,10+;/m1./s1
